US08729102B2
I) Diastereomer of tert-Butyl [(1S)-2-({6-[6-(methoxymethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate
A solution of diisopropyl azodicarboxylate (1.9 M in toluene, 2.20 mL) was added dropwise to a solution of diastereomer of 6-(6-(methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)pyridin-3-ol (shorter retention time, 800 mg), (S)-tert-butyl (1-hydroxypropan-2-yl)carbamate (976 mg), and triphenylphosphine (1100 mg) in toluene (20 mL) at ambient temperature. The mixture was stirred at room temperature for 2 hr. The mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The separated organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (hexane/ethyl acetate) to give the title compound (1100 mg).

reactant | diisopropyl azodicarboxylate | 1.9 M, 2.20 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 6-(6-(methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)pyridin-3-ol | 800 mg | COCOC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)O)C=C1 | C16H17NO4
reactant | (S)-tert-butyl (1-hydroxypropan-2-yl)carbamate | 976 mg | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 1100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl [(1S)-2-({6-[6-(methoxymethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 1100 mg | COCOC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H32N2O6
